US07192947B2
1,1-Dioxo-3,3-dibutyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
To 1,1-dioxo-3,3-dibutyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (synthesised by the of WO9616051 for the corresponding 3-butyl-3-ethyl analogue; 40 mg, 0.08 mmol) was added DMF (2 ml), sodium methanethiolate (60 mg, 0.85 mmol) and sodium borohydride (60 mg, 1.6 mmol). The reaction was run overnight at 60° C. Additional sodium borohydride (60 mg, 1.6 mmol) and sodium methanethiolate (60 mg, 0.85 mmol) was added and the temperature was raised to 120° C. The reaction heated at this temperature for 4 hours and then cooled to room temperature. Then acetic acid was added under a flow of nitrogen, through sodium hypochlorite overnight. Water and EtOAc was added and the aqueous phase was extracted three times with EtOAc. The combined organic phases were washed with HCl (1M), dried and concentrated under reduced pressure. The residue was then purified by flash chromatography [EtOAc: heptane, 1:4] to give the title compound 0.34 g (93%). NMR 0.7–0.9 (m, 6H), 1.0–1.6 (m, 12H), 2.2 (s, 3H), 3.1(s, 2H), 3.4 (s, 2H), 3.7 (brs, 2H), 6.7 (s, 1H), 6.85–7.05 (m, 2H), 7.2–7.4 (m, 2H).

reactant | 1,1-dioxo-3,3-dibutyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | O=S1(CC(CN(C2=C1C=C(C(=C2)Br)OC)C2=CC=CC=C2)(CCCC)CCCC)=O | C24H32BrNO3S
reactant | sodium methanethiolate | 0.85 mmol, 60 mg | C[S-].[Na+]
reactant | sodium borohydride | 1.6 mmol, 60 mg | [BH4-].[Na+]
reactant | sodium borohydride | 1.6 mmol, 60 mg | [BH4-].[Na+]
reactant | sodium methanethiolate | 0.85 mmol, 60 mg | C[S-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1,1-Dioxo-3,3-dibutyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 0.34 g, 93% | O=S1(CC(CN(C2=C1C=C(C(=C2)SC)O)C2=CC=CC=C2)(CCCC)CCCC)=O | C24H33NO3S2
